* C:\Users\joaqu\Desktop\Circuit-Design\BUCK\BUCK_v1.asc
V1 N003 0 36
L1 N004 VREG 67µ
C1 VREG 0 7.95µ
M1 N003 VG1 N004 N004 IRF530
V2 VG1 0 PULSE(0 12 2p 1p 1p 866n 5u)
V4 VG2 0 PULSE(12 0 2p 1p 1p 870n 5u)
M2 N004 VG2 0 0 IRF530
C2 VREG 0 1n
RL VREG 0 4.3
D1 NC_01 NC_02 RF05VAM1S
D2 N002 N001 D
.model D D
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10m 0
;step param C2 list 500n 600n 700n 800n 1u
.backanno
.end
