* C:\Users\joaqu\Desktop\Circuit-Design\BUCK\BUCK_v7.asc
Rf1 VREG_2 Vf_buck 24.2k
Rf2 Vf_buck 0 5.7k
Vref1 N013 0 1.2 AC 0
XU1 N013 Vf_buck VPOS 0 Verr LM358
C1 Vf_buck Verr 160p
C2 N011 Verr 3n
R1 Vf_buck N011 10k
C3 N012 Vf_buck 1.2n
R2 VREG_2 N012 830
V1 N001 0 36
L1 VS1 VREG_2 90µ
C4 N003 0 10µ
C5 N004 0 1n
RL1 VREG_2 0 4.3
R3 VREG_2 N003 100m
R4 VREG_2 N004 0.1
M1 N001 N002 VS1 VS1 IRF530
M2 VS1 N005 0 0 IRF530
D1 VS1 N001 D
C6 N001 0 0
Rdrv1 N005 VG_2 5
Rdrv2 N002 VG_1 5
V2 N015 0 PULSE(0 1 0 2.5u 2.5u 0 5u)
XU2 Verr N015 VPOS 0 N014 LT1720
Vg1 VPOS 0 12 AC 0
Cboot N008 N009 150n
Dboot N006 N008 1N4007
V3 N010 0 7
XU7 N014 H_in L_in dead_time Td=50ns
XU8 VG_2 VG_1 0 0 L_in H_in VPOS N007 VS1 N010 0 IR2110
V4 NC_01 0 PULSE(0 5 0 1n 1n 882n 5u)
V5 NC_02 0 PULSE(5 0 0 1n 1n 882n 5u)
R7 NC_03 N016 60k
R8 N016 0 1k
V6 N007 VS1 12
.model D D
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0 startup
.inc LM358.txt
.lib switching_average\switching.lib
.lib switching_average\average.lib
.MODEL 1N4007 D  ( IS=76.9p RS=42.0m BV=1.00k IBV=5.00u
+ CJO=26.5p  M=0.333 N=1.45 TT=4.32u )
.include IR2110.txt
* Triangular
.lib IR2110.txt
.lib LTC.lib
.backanno
.end
