* C:\Users\joaqu\Desktop\Circuit-Design\BUCK\BUCK_v4_average.asc
Vduty1 d 0 PWL(0 0.174 5.01m 0.174 5.02m 0.180) AC 0
V5 N001 0 36
L2 Vsw VREG_2 90µ
C7 N002 0 10µ
C8 N003 0 1n
RL1 VREG_2 0 {RL1}
R5 VREG_2 N002 100m
R6 VREG_2 N003 0.1
Rf1 VREG_2 Vf_buck 24.2k
Rf2 Vf_buck 0 5.7k
Vref1 N007 0 PWL(0 1.2 8m 1.2 8.1m 1.21) AC 0
B1 N004 0 V=limit(V(x), 0.01, 0.9)
Vz1 x y AC 1
Vg1 VPOS 0 5 AC 0
XU3 N007 Vf_buck VPOS 0 y LM358
C2 Vf_buck y 160p
C1 N005 y 3n
R1 Vf_buck N005 10k
C3 N006 Vf_buck 1.2n
R2 VREG_2 N006 830
XU2 N001 Vsw Vsw 0 N004 CCM2 Ron=0.16 VD=0 RD=0.16
.lib switching_average\switching.lib
.lib switching_average\average.lib
* Librerias de simulacion
.tran 0 0.5m 0 startup
;ac dec 300 0.01 1Meg
* Tipos de simulacion
.inc LM339.txt
.inc LM358.txt
.step param RL1 list 3.29 64.5
.backanno
.end
