* C:\Users\joaqu\Desktop\Circuit-Design\BUCK\BUCK_v6_switching.asc
V1 N001 0 36
L1 VS1 VREG_2 90µ
C1 N003 0 10µ
C2 N004 0 1n
RL1 VREG_2 0 {RL1}
R1 VREG_2 N003 100m
R2 VREG_2 N004 0.1
Vg1 VPOS 0 12 AC 0
M2 N001 N002 VS1 VS1 IRF530
M3 VS1 N005 0 0 IRF530
D1 VS1 N001 D
C4 N001 0 0
Rdrv1 N005 VG_2 5
Rdrv2 N002 VG_1 5
XU8 N008 N009 PWM VM=1V, fs=200kHz Dmin=0.01 Dmax=0.9, Voffset=0
V2 Vdd_driver 0 12
XU2 N010 Vdd_driver 0 0 VG_2 driver Imax=3A Tdelay=10ns, IQ=1mA, Vuvl=5V
XU3 N007 N006 VS1 0 VG_1 driver Imax=3A Tdelay=10ns, IQ=1mA, Vuvl=5V
Rf1 VREG_2 Vf_buck 24.2k
Rf2 Vf_buck 0 5.7k
Vref1 N013 0 1.2 AC 0
XU1 N013 Vf_buck VPOS 0 N008 LM358
C3 Vf_buck N008 160p
C6 N011 N008 3n
R3 Vf_buck N011 10k
C7 N012 Vf_buck 1.2n
R4 VREG_2 N012 830
XU5 N009 N007 N010 dead_time Td=50ns
C5 N006 VS1 150n
D2 Vdd_driver N006 1N4148
.model D D
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib switching_average\switching.lib
.lib switching_average\average.lib
* Librerias de simulacion
.tran 0 .5m 0 startup
;ac dec 300 0.01 1Meg
* Tipos de simulacion
.inc LM339.txt
.inc LM358.txt
* VS1+Vdd_driver
.options reltol=0.0005
.step param RL1 list 3.29 64.5
.backanno
.end
