* C:\Users\joaqu\Desktop\Circuit-Design\LDOA_Regulator\Regulador_LDOA_v2_Cuasi_Darlington_selector.asc
Q3 N001 N001 P001 0 2N2907
Q4 Vod N001 P002 0 2N2907
Q1 N001 Vref N003 0 2N2222
Q2 Vod Vf N003 0 2N2222
Rp N003 0 500
Q5 Vs1 N002 VIN 0 2N2907
Q6 N002 Vod Vs1 0 2N2222
Rf1 Vs1 Vf 3.16k
Rf2 N004 0 900
RL Vo 0 {RL}
V1 Vref 0 {VREFDC} AC {VREFAC}
VIN VIN 0 {VINDC} AC {VINAC}
R3 VIN P001 {RE}
R2 VIN P002 {RE}
C3 Vo 0 1µ
Rs Vo Vs1 0.7
XU1 N005 N006 +15V -15V N011 TL081
XU2 N012 N015 +15V -15V N014 TL081
R1 N011 N012 1k
R4 Vrefc N015 1k
R5 N015 N014 100k
R6 N012 0 100k
Q7 Vod N013 N016 0 2N2222
R8 N016 0 1K
V2 +15V 0 15
V3 0 -15V 15
R9 N006 N011 10k
R10 Vo N006 10k
R11 Vs1 N005 10k
R12 N005 0 10k
R7 N014 N013 10k
R13 N007 Vref 75k
R14 0 N007 10k
R15 Vf N017 13k
R16 N017 0 10k
R17 N009 N008 10k
R18 N009 N018 10k
R19 Vrefc N010 10k
R20 0 N010 10k
XU3 N007 N008 +15V -15V N008 TL081
XU4 N017 N018 +15V -15V N018 TL081
XU5 N009 N010 +15V -15V Vrefc TL081
Rf3 Vf N004 1k
M1 N004 SELA 0 0 AO6408
VSELA SELA 0 5V
.model NPN NPN
.model PNP PNP
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
;ac dec 20 0.1 10Meg
.param VINDC 6.35
.param VINAC 1
.param VREFDC 1.2
.param VREFAC 0
;param RL 5
;dc VIN 1 12
;step param RE 1k 1.5k 100
.param RE 470
.step param RL 1k 1 10
* Mido regulacion de linea
.meas DC Vo1rl FIND V(Vo) AT=6.25
.meas DC Vo2rl FIND V(Vo) AT=6.45
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/0.2)
* Mido regulacion de carga
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 10
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 10
* Mido eficiencia
* -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
.meas OP RegCar PARAM (-(Vo2rc-Vo1rc)/(Io2rc-Io1rc))
;tran 0 1m 0 1u
* Lazo de Corriente
.include TL081.txt
* Referencia Lazo de Corriente
;step param VINDC 6.25 6.35 0.01
* Sumador
* Selector
.backanno
.end
