* C:\Users\joaqu\Desktop\Circuit-Design\LDOA_Regulator\Vref_v1.asc
XU1 N002 0 N002 TL431
V1 N001 0 6.4
R1 N002 N001 470
R2 N003 N002 2k35
R3 0 N003 2k2
.tran 0 10m 1n
.lib TL431.mod
.backanno
.end
