* C:\Users\joaqu\Desktop\Circuit-Design\LDOB_Regulator\LDOB_Regulator_v1.asc
Q1 N004 Vref Pol 0 BC546B
Q2 Vod Vf Pol 0 BC546B
Q3 N004 N004 N002 0 BC327-25
Q4 Vod N004 N003 0 BC327-25
RE1 Vin N002 {RE}
RE2 Vin N003 {RE}
Vref Vref 0 1.2
Q5 Vs1 N001 Vin 0 D45H11
Q6 N001 Vod Vs1 0 BC546B
Rs Vo Vs1 0.1
Rf1 Vo Vf 3.16k
Rf3 Vf N005 1k1
Rf2 N005 0 1.06K
RL Vo 0 {RL}
C1 Vo 0 1µ
Vin Vin 0 {Vin}
M1 N005 SELA 0 0 AO6408
R1 Vs1 N006 10k
R2 Vo N010 10k
R3 Vs N013 10k
R4 N010 Vs 100k
R5 N006 0 100k
R6 Vrefc N016 10k
R7 0 N013 100k
R8 N015 N016 100k
R9 N014 N015 100
Q7 Vod N014 0 0 2N2222
R10 N009 N008 10k
R11 N009 N018 10k
R12 N007 Vref 20k
R13 0 N007 10k
R14 0 N017 10k
R15 Vf N017 900
R16 Vrefc N011 10k
R17 0 N011 10k
VSELA SELA 0 0V
XU1 N010 N006 Vs opamp Aol=100K GBW=10Meg
XU2 N016 N013 N015 opamp Aol=100K GBW=10Meg
XU3 N008 N007 N008 opamp Aol=100K GBW=10Meg
XU4 N018 N017 N018 opamp Aol=100K GBW=10Meg
XU5 N011 N009 Vrefc opamp Aol=100K GBW=10Meg
Q8 N012 N012 0 0 BC546B
R18 Vref N012 500
Q9 Pol N012 0 0 BC546B
.model NPN NPN
.model PNP PNP
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\joaqu\Documents\LTspiceXVII\lib\cmp\standard.mos
.param Vin 6.35
* Parámetros
.param RE 4.7
;param RL 5
.step param RL 100 0.1 0.25
* Lazo de corriente
* Referencia Lazo de Corriente
;tran 0 1m 0 1u
* Simulaciones
.op
;dc Vin 1 12
.lib opamp.sub
* Fuente de corriente de polarizacion\nEspejo Simple
* Selector
.backanno
.end
